US04038312
A mixture of 4.00 g (21.5 mmol) of 1,4,7,10-tetraazacyclotridecane and 3.50 g (21.5 mmol) of hexamethylphosphorous triamide is heated for 2 hr under nitrogen at 125° and then distilled under vacuum to give 3.84 g (83%) of clear, colorless, viscous liquid 1,4,8,11-tetraaza-14-phosphatetracyclo[6.5.1.04,14.011,14 ]tetradecane, bp 92° (0.30 mm).

reactant | 1,4,7,10-tetraazacyclotridecane | 21.5 mmol, 4.00 g | N1CCNCCNCCNCCC1 | C9H22N4
reactant | hexamethylphosphorous triamide | 21.5 mmol, 3.50 g | CN(P(N(C)C)N(C)C)C | C6H18N3P
product | 1,4,8,11-tetraaza-14-phosphatetracyclo[6.5.1.04,14.011,14 ]tetradecane | N12CCN3CCCN4CCN(CC1)P234 | C9H19N4P
